US09056859B2
A solution of methyl (4-amino-3-iodophenyl)acetate (5 g, 17.2 mmol) and triethyl orthoformate (7.6 mg, 51.5 mmol) in 40 mL of HOAc was added sodium azide (1.2 g, 17.2 mmol), and the mixture was heated to 100° C. for 3 hours. The reaction mixture was cooled to ambient temperature. The solvent was removed under vacuum. The residue was dissolved in EtOAc, washed with water, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by column chromatograph to afford methyl [3-iodo-4-(1H-tetrazol-1-yl)phenyl]acetate. 1H-NMR (300 MHz, CDCl3) δ ppm 8.90 (s, 1H), 7.96 (s, 1H), 7.47 (d, J=8.2 Hz, 1H), 7.38 (d, J=7.9 Hz, 1H), 3.74 (s, 3H), 3.70 (s, 2H).

reactant | methyl (4-amino-3-iodophenyl)acetate | 17.2 mmol, 5 g | NC1=C(C=C(C=C1)CC(=O)OC)I | C9H10INO2
reactant | triethyl orthoformate | 51.5 mmol, 7.6 mg | C(OCC)(OCC)OCC | C7H16O3
reactant | sodium azide | 17.2 mmol, 1.2 g | [N-]=[N+]=[N-].[Na+]
solvent | HOAc | 40 mL | CC(=O)O | C2H4O2
product | methyl [3-iodo-4-(1H-tetrazol-1-yl)phenyl]acetate | IC=1C=C(C=CC1N1N=NN=C1)CC(=O)OC | C10H9IN4O2
